US06852863B2
(3-{[[4-(2-Hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid.
A solution of (3-{[[4-(2-hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester (108 mg, 0.199 mmol) in CH2Cl2 (2 mL) was cooled to 0° C. and trifluoroacetic acid (1 mL) was added. The reaction was stirred at room temperature for 1 h. The solution was concentrated in vacuo, by azeotroping with CH2Cl2 (3×). The residue was dissolved in THF and 1N HCl (0.4 mL) was added. The solution was concentrated in vacuo, azeotroping with CH2Cl2 (3×). Purification by radial chromatography using a solvent gradient (CH2Cl2 to 20% MeOH in CH2Cl2) provided the title compound (34 mg). 1H NMR (400 MHz, CDCl3) δ 8.79 (s, 1H), 8.69 (s, 1H), 8.11 (d, 1H), 7.52 (m, 1H), 7.21 (d, 2H), 7.09 (m, 1H), 7.02 (d, 2H), 6.76 (d, 1H), 6.70 (m, 2H), 4.86 (s, 2H), 4.32 (m, 4H), 3.48 (s, 2H), 1.22 (s, 6H); MS 485.2 (M+1), 483.4 (M−1).

reactant | (3-{[[4-(2-hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 0.199 mmol, 108 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C(CO)(C)C)=O | C29H36N2O6S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3-{[[4-(2-Hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid | 34 mg | OCC(C)(C)C1=CC=C(CN(S(=O)(=O)C=2C=NC=CC2)CC=2C=C(OCC(=O)O)C=CC2)C=C1 | C25H28N2O6S
